US04349552
To the above solution of 2-acetylethyl isocyanate was added a solution of 5-fluorouracil (2.60 g.) in N,N-dimethylacetamide (15 ml.) at 80° C. and stirred for further 5 hours at the same temperature. The resultant mixture was diluted with ethyl acetate (200 ml.), washed with water (each 30 ml., 3 times), dried over magnesium sulfate, treated with activated charcoal, filtered and evaporated in vacuo. The residue was recrystallized from ethyl acetate to give 1-[N-(2-acetylethyl)carbamoyl]-5-fluorouracil (439 mg.).

reactant | 2-acetylethyl isocyanate | C(C)(=O)CCN=C=O | C5H7NO2
reactant | 5-fluorouracil | 2.60 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
solvent | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[N-(2-acetylethyl)carbamoyl]-5-fluorouracil | 439 mg | C(C)(=O)CCNC(=O)N1C(=O)NC(=O)C(=C1)F | C9H10FN3O4
